US09023840B2
Step 1: methyl 5-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyrazine-2-carboxylate
(R)-(+)-2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl (0.065 g, 0.10 mmol) was added to a mixture of {3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride (0.50 g, 1.0 mmol), methyl 5-chloropyrazine-2-carboxylate (0.18 g, 1.0 mmol) (Ark Pharm, Inc., Cat. #: AK-23920), and cesium carbonate (1.0 g, 3.1 mmol) in toluene (15.0 mL) under nitrogen, followed by palladium acetate (0.023 g, 0.10 mmol). The reaction mixture was stirred at 120° C. for 3 h. After cooled to r.t., the reaction mixture was filtered through a pad of celite, washed with ethyl acetate. The filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with ethyl acetate in dichloromethane (0-70%) to afford the desired product (0.31 g, 55%). LCMS (M+H)+: m/z=546.3.

reactant | (R)-(+)-2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl | 0.10 mmol, 0.065 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | {3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride | 1.0 mmol, 0.50 g | Cl.Cl.C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C2(CNC2)CC#N)(C)C
reactant | methyl 5-chloropyrazine-2-carboxylate | 1.0 mmol, 0.18 g | ClC=1N=CC(=NC1)C(=O)OC | C6H5ClN2O2
reactant | cesium carbonate | 3.1 mmol, 1.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 15.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.10 mmol, 0.023 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 5-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyrazine-2-carboxylate | 0.31 g, 55% | C(#N)CC1(CN(C1)C=1N=CC(=NC1)C(=O)OC)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C26H31N9O3Si
